US04843087
To a solution of 1.2 ml hexamethylphosphoramide and 6.7 ml 1.75M lithium diisopropylamide in 9 ml tetrahydrofuran at 0° C. under nitrogen was slowly added a solution of 1.00 g 3,5-dichloro-4-methylbenzoic acid in 3 ml tetrahydrofuran. After 1 hr the solution was cooled to -78° C. and 1.00 g 5-(5-bromopentyl)-3-methylisoxazole was added. The reaction mixture was stirred at room temperature for 19 hrs and worked up by acid-base extraction to give 1.3 g crude acid product. The latter was treated with 1 ml ethyl iodide and 4.9 g potassium carbonate in 10 ml dimethylformamide, stirred 12 hrs at room temperature. Extraction with ether and washing with water provided 1 g of ethyl 3,5-dichloro-4-[6-(3-methyl-5-isoxazolyl)hexyl]benzoate suitable for subsequent reactions.

reactant | lithium diisopropylamide | 1.75M, 6.7 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,5-dichloro-4-methylbenzoic acid | 1.00 g | ClC=1C=C(C(=O)O)C=C(C1C)Cl | C8H6Cl2O2
reactant | 5-(5-bromopentyl)-3-methylisoxazole | 1.00 g | BrCCCCCC1=CC(=NO1)C | C9H14BrNO
reactant | ethyl iodide | 1 ml | C(C)I | C2H5I
reactant | potassium carbonate | 4.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hexamethylphosphoramide | 1.2 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 3,5-dichloro-4-[6-(3-methyl-5-isoxazolyl)hexyl]benzoate | 1 g | ClC=1C=C(C(=O)OCC)C=C(C1CCCCCCC1=CC(=NO1)C)Cl | C19H23Cl2NO3
